US05624943
Under the conditions of example 21 B, 5 g of 5-bromonicotinic acid methyl ester is reacted with 2.43 g of trimethylsilylacetylene, worked up, and the crude product is chromatographed on silica gel with hexane/0-5% ethyl acetate. 734 mg of 5-(2-trimethlsilylethinyl)-nicotinic acid methyl ester is obtained as oil.

reactant | 5-bromonicotinic acid methyl ester | 5 g | COC(C1=CN=CC(=C1)Br)=O | C7H6BrNO2
reactant | trimethylsilylacetylene | 2.43 g | C[Si](C)(C)C#C | C5H10Si
product | 5-(2-trimethlsilylethinyl)-nicotinic acid methyl ester | 734 mg | COC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O | C12H15NO2Si
